US05352792
To a suspension of 7β-amino-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester hydrochloride (37.27 g: 75 mMol.) and (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetic acid (45.63 g; 86 mMol.) in dichloromethane (600 ml) is added at -30° C. N-methylmorpholine (27.2 ml: 0.25 Mol.) over 3 minutes. After 4 minutes, phenyl dichlorophosphate (12.3 ml: 82 mMol.) is added to the mixture. After stirring over 3 hours, the mixture is diluted with 10% hydrochloric acid (40 ml) and water and extracted with ethyl acetate. The extract is washed with water, aqueous sodium hydrogen carbonate, dilute hydrochloric acid, and water, dried over sodium sulfate, and concentrated under reduced pressure. The residue is dissolved in isopropanol (2 liters) by warming and cooled to give 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester (67 g). Colorless powder. Yield: 92%.

reactant | 7β-amino-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester hydrochloride | 75 mMol, 37.27 g | Cl.C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)OS(=O)(=O)C
reactant | (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetic acid | 86 mMol, 45.63 g | C(C)(C)(C)OC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H27N3O5S
reactant | N-methylmorpholine | 0.25 Mol, 27.2 ml | CN1CCOCC1 | C5H11NO
reactant | phenyl dichlorophosphate | 82 mMol, 12.3 ml | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
solvent | hydrochloric acid | 40 ml | Cl | ClH
solvent | water | O | H2O
product | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester | 67 g, Yield: 92% | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)OS(=O)(=O)C | C50H45N5O10S3
